US09278915B2
Intermediate 83: 4-Iodo-3-methyl-5-(4-nitrophenyl)-1,2-oxazole
To a 100 mL RB flask fitted with magnetic stirrer was charged with 10 mL of 1,2-dichloroethane. To the stirring solution were added 3-methyl-5-(4-nitrophenyl)-1,2-oxazole (0.27 g, 1.30 mmol), N-iodosuccinimide (0.28 g, 1.24 mmol), followed by concentrated H2SO4 (0.2 mL) at 0° C. and stirred at room temperature for 4 h. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (50 mL). The organic layer was washed with sodium thiosulphate solution (30 mL), water (30 mL) and saturated brine solution (10 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as yellow solid (0.40 g, yield: 93.7%). 1H NMR (300 MHz, CDCl3): δ 8.29-8.32 (dd, 2H), 8.18-8.21 (dd, 2H), 2.33 (s, 3H).

reactant | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
reactant | 3-methyl-5-(4-nitrophenyl)-1,2-oxazole | 1.30 mmol, 0.27 g | CC1=NOC(=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H8N2O3
reactant | N-iodosuccinimide | 1.24 mmol, 0.28 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | H2SO4 | 0.2 mL | OS(=O)(=O)O | H2O4S
solvent | water | 30 mL | O | H2O
product | 4-Iodo-3-methyl-5-(4-nitrophenyl)-1,2-oxazole | 0.40 g, yield: 93.7% | IC=1C(=NOC1C1=CC=C(C=C1)[N+](=O)[O-])C | C10H7IN2O3
